US09399636B2
Step 2: Synthesis of 2-((6-((R)-2-methylpyrrolidin-1-yl)-4-(1-((tetrahydro-2H-pyran-4-yl)methyl)pyrrolidin-3-yl)pyridin-2-yl)amino)isonicotinonitrile
To a solution of 2-[[6-[(2R)-2-methylpyrrolidin-1-yl]-4-pyrrolidin-3-yl-2-pyridyl]amino]pyridine-4-carbonitrile hydrochloride (160 mg, 0.415 mmol) in methanol (3.0 mL) was added tetrahydropyran-4-carbaldehyde (0.086 mL, 0.831 mmol, 2.0 equiv.). It was heated @ 50° C. overnight. After cooling to room temperature, sodium triacetoxyborohydride (278.2 mg, 1.247 mmol, 3.0 equiv.) was added in portions. After 3 h, more sodium triacetoxyborohydride (278.2 mg, 1.247 mmol, 3.0 equiv.) was added, stirred @ rt for another o/n. It was quenched with 1N NaHCO3, extracted with EtOAc (2×20 mL), dried over Na2SO4, filtered, concentrated in vacuo, and purified by HPLC to afford 15.5 mg (8.3%) of product as yellow gum. LC-MS: m/z=447 (M+H+).

reactant | 2-[[6-[(2R)-2-methylpyrrolidin-1-yl]-4-pyrrolidin-3-yl-2-pyridyl]amino]pyridine-4-carbonitrile hydrochloride | 0.415 mmol, 160 mg | Cl.C[C@H]1N(CCC1)C1=CC(=CC(=N1)NC1=NC=CC(=C1)C#N)C1CNCC1
reactant | tetrahydropyran-4-carbaldehyde | 0.831 mmol, 0.086 mL, 2.0 equiv. | O1CCC(CC1)C=O | C6H10O2
reactant | sodium triacetoxyborohydride | 1.247 mmol, 278.2 mg, 3.0 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1.247 mmol, 278.2 mg, 3.0 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
product | 2-((6-((R)-2-methylpyrrolidin-1-yl)-4-(1-((tetrahydro-2H-pyran-4-yl)methyl)pyrrolidin-3-yl)pyridin-2-yl)amino)isonicotinonitrile | 15.5 mg, 8.3% | C[C@H]1N(CCC1)C1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1CN(CC1)CC1CCOCC1 | C26H34N6O
